US06020345
Stage 1: (6-chloro-5-methylpyridin-2-yl)methanol
0.40 g of sodium borohydride (10.5 mmol) is added in portions to a solution of 1.20 g of 6-chloro-5-methylpyridine-2-carboxylic acid ethyl ester (6.00 mmol) and 10 ml of ethanol maintained at room temperature. The mixture is stirred for 4 hours and then the mixture is poured into an aqueous solution of sodium chloride and the mixture is extracted with ethyl acetate. The organic phase is dried over sodium sulfate, filtered and concentrated under vacuum. The title product is isolated by chromatography on a silica column (eluent: chloroform). 0.69 g of a colorless oil is recovered.

reactant | sodium borohydride | 10.5 mmol, 0.40 g | [BH4-].[Na+]
reactant | 6-chloro-5-methylpyridine-2-carboxylic acid ethyl ester | 6.00 mmol, 1.20 g | C(C)OC(=O)C1=NC(=C(C=C1)C)Cl | C9H10ClNO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (6-chloro-5-methylpyridin-2-yl)methanol | Yield: 73% | ClC1=C(C=CC(=N1)CO)C | C7H8ClNO
